US07011838B2
Using 0.47 g of (4-bromobenzyl)malononitrile, 5 ml of N,N-di-methylformamide, 0.12 g of sodium hydride (60% in oil), and 0.25 g of 1-bromo-2-fluoroethane, and according to the process described in the Production Example 1, there was obtained 0.27 g of 2-(4-bromobenzyl)-2-(2-fluoroethyl)malononitrile (the present compound (51)).

reactant | (4-bromobenzyl)malononitrile | 0.47 g | BrC1=CC=C(CC(C#N)C#N)C=C1 | C10H7BrN2
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 1-bromo-2-fluoroethane | 0.25 g | BrCCF | C2H4BrF
solvent | N,N-di-methylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromobenzyl)-2-(2-fluoroethyl)malononitrile | 0.27 g, Yield: 48% | BrC1=CC=C(CC(C#N)(C#N)CCF)C=C1 | C12H10BrFN2
